US04792628
Into a solution of 36 g of 4-methyl-7-hydroxy-1-indanone and 17.6 g of potassium hydroxide in 650 ml of methanol was added 25 ml of allyl bromide, and the mixture was refluxed by heating for 6 hours. The insoluble matters in the reaction mixture were removed by filtration, then the solvent was removed by evaporation. The residue obtained was extracted with chloroform-water, and the chloroform layer was collected by separation, then the solvent was removed by evaporation. The residue thus obtained was washed with ether and purified by means of a column chromatography to obtain 32 g of 4-methyl-7-allyloxy-1-indanone.

reactant | 4-methyl-7-hydroxy-1-indanone | 36 g | CC1=C2CCC(C2=C(C=C1)O)=O | C10H10O2
reactant | potassium hydroxide | 17.6 g | [OH-].[K+]
reactant | allyl bromide | 25 ml | C(C=C)Br | C3H5Br
solvent | methanol | 650 ml | CO | CH4O
product | 4-methyl-7-allyloxy-1-indanone | 32 g | CC1=C2CCC(C2=C(C=C1)OCC=C)=O | C13H14O2
